US04276417
4.5 g. of 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one are suspended in 100 ml. of methylene chloride and 10 ml. of triethylamine, cooled while stirring to about 5° C. and treated with 2.5 ml. of 2,4-dichlorobenzoyl chloride in 20 ml. of methylene chloride. After 1 hour at 0° C., the mixture is diluted with 100 ml. of water and adjusted to pH 4 with hydrochloric acid. The two phases are separated and the aqueous phase is extracted twice with methylene chloride. The combined organic extracts are dried over sodium sulfate and evaporated to dryness under reduced pressure. The residue is chromatographed over silica gel using a mixture of chloroform and methanol (99:1) for the elution. Crystallization of the residue from chloroform and diethyl ether yields 2,4-dichloro-N-{5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl}benzamide having a melting point of 163°-164° C.

reactant | 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one | NC1=NC(=NC=2N1OC(N2)=O)N(CC=C)CC=C | C10H12N6O2
reactant | 2,4-dichlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,4-dichloro-N-{5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl}benzamide | ClC1=C(C(=O)NC2=NC(=NC=3N2OC(N3)=O)N(CC=C)CC=C)C=CC(=C1)Cl | C17H14Cl2N6O3
